US04022786
30 g. of 1-(3-methoxypropyl)-3-benzoyl-4-hydroxy-4-phenylpiperidine are suspended in 225 ml. of anhydrous benzene. 50 g. of finely pulverized, anhydrous aluminum chloride are added thereto within 20 minutes, while stirring. The reaction temperature increases during said addition up to 60° C. The reaction mixture is then kept at from 50° to 55° C. for about 1 hour, is cooled to room temperature, and is added to a mixture of ice and concentrated hydrochloric acid. The benzene layer is separated from the aqueous layer by means of a separating funnel and is washed once with dilute hydrochloric acid. The combined aqueous layers are rendered alkaline by the addition of 40% sodium hydroxide solution. The precipitated base is separated by repeated extraction with ether. The combined ether extracts are dried over anhydrous potassium carbonate and the ether is distilled off. 21 g. of the crude base remain as residue. On distillation in a high vacuum, pure 1-(3-methoxypropyl)-4,4-diphenylpiperidine is obtained in the form of a light oil boiling at 130° C./0.01 mm. Hg.

reactant | 1-(3-methoxypropyl)-3-benzoyl-4-hydroxy-4-phenylpiperidine | COCCCN1CC(C(CC1)(C1=CC=CC=C1)O)C(C1=CC=CC=C1)=O | C22H27NO3
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(3-methoxypropyl)-4,4-diphenylpiperidine | COCCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H27NO
